US06703392B2
2-{1-[3-Methoxy-4-(N,N-dimethylcarbamoyloxy)-benzyl]-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl}-N-benzyl-acetamide:
prepared by reaction of 2-[1-(4-hydroxy-3-methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide with N,N-dimethyl-carbamoyl chloride

reactant | 2-[1-(4-hydroxy-3-methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide | OC1=C(C=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NCC2=CC=CC=C2)C=C1)OC | C28H32N2O5
reactant | N,N-dimethyl-carbamoyl chloride | CN(C(=O)Cl)C | C3H6ClNO
product | 2-{1-[3-Methoxy-4-(N,N-dimethylcarbamoyloxy)-benzyl]-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl}-N-benzyl-acetamide | COC=1C=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NCC2=CC=CC=C2)C=CC1OC(N(C)C)=O | C31H37N3O6
